US07858621B2
Step 1: Step 1: 3-(2-Propylthio-6-trifluoromethyl-pyridin-3-yl)-acrylic acid
3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (243 mg, 0.966 mmol) was reacted with propanthiol (229 mg, 3.01 mmol) and sodium hydride (145 mg, 3.62 mmol) to afford title compound (115 mg) after purification by column chromatography (Hex EtOAc=2/3).

reactant | 3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 0.966 mmol, 243 mg | ClC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C9H5ClF3NO2
reactant | propanthiol | 3.01 mmol, 229 mg | C(CC)S | C3H8S
reactant | sodium hydride | 3.62 mmol, 145 mg | [H-].[Na+]
product | 3-(2-Propylthio-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 115 mg | C(CC)SC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C12H12F3NO2S
